US07388020B2
N-(5-Chloro-2-{3-[4-(5-fluoro-2-oxo-2,3-dihydro-benzoimidazol-1-yl)piperidin-1-yl]-2-hydroxy-propoxy}-phenyl)-acetamide
A solution of 5-fluoro-1-piperidin-4-yl-1,3-dihydro-benzoimidazol-2-one (480 mg, 2.0 mmol) and N-(5-chloro-2-oxiranylmethoxy-phenyl)-acetamide (490 mg, 2.0 mmol) in isopropanol (i-PrOH) (10 mL) and EtOH (10 mL) were stirred at 80° C. for 17 h, after which the solvent was removed in vacuo. The residue was purified using gradient flash chromatography (CH2Cl2 to MeOH), yielding the desired product as a white solid (960 mg, 99%).

reactant | 5-fluoro-1-piperidin-4-yl-1,3-dihydro-benzoimidazol-2-one | 2.0 mmol, 480 mg | FC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14FN3O
reactant | N-(5-chloro-2-oxiranylmethoxy-phenyl)-acetamide | 2.0 mmol, 490 mg | ClC=1C=CC(=C(C1)NC(C)=O)OCC1OC1 | C11H12ClNO3
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
solvent | EtOH | 10 mL | CCO | C2H6O
product | N-(5-Chloro-2-{3-[4-(5-fluoro-2-oxo-2,3-dihydro-benzoimidazol-1-yl)piperidin-1-yl]-2-hydroxy-propoxy}-phenyl)-acetamide | 960 mg, 99% | ClC=1C=CC(=C(C1)NC(C)=O)OCC(CN1CCC(CC1)N1C(NC2=C1C=CC(=C2)F)=O)O | C23H26ClFN4O4
